US08293721B2
4-(5-Cyano-7-isopropyl-1,3-benzoxazol-2-yl)-N-[(2-oxo-3-{5-[2-(trifluoromethoxy)phenyl]pyridin-2-yl}-1,3-oxazolidin-5-yl)methyl]benzamide
To a mixture of N-{[3-(5-chloropyridin-2-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}-4-(5-cyano-7-isopropyl-1,3-benzoxazol-2-yl)benzamide (52 mg) and potassium carbonate (55 mg) in 1 ml of tetrahydrofuran and 1 ml of water was added 2-trifluoromethoxyphenylboronic acid (82 mg) and palladium di-tert-butylphosphinoferrocene (13 mg). The mixture was heated via microwave for 15 min at 150° C. The sample was cooled to room temperature, and purified was purified via column chromatography on a Biotage Horizon 40M column eluting with 0% ethyl acetate in hexanes (1 column volumes), followed by a gradient to 100% ethyl acetate in hexanes (over 10 column volumes), and held at 100% ethyl acetate for 3 column volumes to provide the title compound as an off-white solid (53 mg, 83%). Mass spectrum (ESI) 642.2 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.43 (s, 1H), 8.35 (d, J=7.8 Hz, 2H), 8.28 (d, J=8.7 Hz, 1H), 7.98 (d, J=8.3 Hz, 2H), 7.94 (s, 1H), 7.84 (d, J=8.7 Hz, 1H), 7.52 (s, 1H), 7.40 (m, 4H), 6.76 (bs, 1H), 4.98 (m, 1H), 4.48 (dd, J=9.1 Hz, 10.7 Hz, 1H), 4.13 (m, 2H), 3.72 (m, 1H), 3.49 (sept, J=6.9 Hz, 1H), 1.46 (d, J=7.1 Hz, 6H).

reactant | N-{[3-(5-chloropyridin-2-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}-4-(5-cyano-7-isopropyl-1,3-benzoxazol-2-yl)benzamide | 52 mg | ClC=1C=CC(=NC1)N1C(OC(C1)CNC(C1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2C(C)C)C#N)=O)=O | C27H22ClN5O4
reactant | potassium carbonate | 55 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-trifluoromethoxyphenylboronic acid | 82 mg | FC(OC1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O3
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
catalyst | palladium di-tert-butylphosphinoferrocene | 13 mg | C(C)(C)(C)P(C(C)(C)C)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2].[Pd]
product | 4-(5-Cyano-7-isopropyl-1,3-benzoxazol-2-yl)-N-[(2-oxo-3-{5-[2-(trifluoromethoxy)phenyl]pyridin-2-yl}-1,3-oxazolidin-5-yl)methyl]benzamide | 53 mg, 83% | C(#N)C=1C=C(C2=C(N=C(O2)C2=CC=C(C(=O)NCC3CN(C(O3)=O)C3=NC=C(C=C3)C3=C(C=CC=C3)OC(F)(F)F)C=C2)C1)C(C)C | C34H26F3N5O5
